US05523277
Preparation of N-[5-fluoro-1-(o-methoxyphenyl)-1H -benzotriazol-6-yl]acetamide
A solution of 4'-amino-2'-fluoro-5'-(o-methoxyanilino)acetanilide (11.0 g, 0.038 mol) in tetrahydrofuran is added dropwise to a 50% acetic acid solution at 0° C. To the resultant mixture, a solution of sodium nitrite (5.51 g, 0.080 mol) in water is added dropwise. After the addition is complete, the reaction mixture is stirred at room temperature for 2 hours and filtered to obtain a solid. The filtrate is extracted with ethyl acetate and the organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a dark solid. Flash column chromatography of the combined solids using silica gel and a (3:1) methylene chloride/ethyl acetate solution gives the title product as a greenish-brown solid, mp 174°-175° C.

reactant | 4'-amino-2'-fluoro-5'-(o-methoxyanilino)acetanilide | 0.038 mol, 11.0 g | NC1=CC(=C(NC(C)=O)C=C1NC1=C(C=CC=C1)OC)F | C15H16FN3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.080 mol, 5.51 g | N(=O)[O-].[Na+]
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[5-fluoro-1-(o-methoxyphenyl)-1H -benzotriazol-6-yl]acetamide | FC1=CC2=C(N(N=N2)C2=C(C=CC=C2)OC)C=C1NC(C)=O | C15H13FN4O2
